US07495001B2
E] [2-Methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol
1.96 g (6.62 mmol) of the above synthesized 2-methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid methyl ester in 14 ml of abs. THF was cooled down to 0° C. and reacted with 13.8 ml of DIBAL-H-solution (1.2 M in toluene, 2.5 eq.) for 1 h. Careful quenching with ice/NH4Cl, twofold extraction with AcOEt, washing with brine, drying over sodium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2, hexane/AcOEt=55/45) to deliver finally 1.66 g of the title compound as white crystals of mp. 75-77° C.

reactant | 2-methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)C1=CC(=CC=C1)C(F)(F)F)C)=O | C15H12F3NO2
reactant | DIBAL-H | 1.2 M, 13.8 ml, 2.5 eq. | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | [2-Methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | CC1=NC(=CC=C1CO)C1=CC(=CC=C1)C(F)(F)F | C14H12F3NO
